US08193164B2
(R)-3-Amino-pyrrolidine-1-carboxylic acid (R)-pyrrolidin-3-ylamide is prepared analogously to (R)-3-amino-pyrrolidine-1-carboxylic acid (4-amino-cyclohexyl)-amide (Intermediate IF) by replacing (4-amino-cyclohexyl)-carbamic acid tert-butyl ester with (R)-3-amino-pyrrolidine-1-carboxylic acid tert-butyl ester.

reactant | (R)-3-amino-pyrrolidine-1-carboxylic acid (4-amino-cyclohexyl)-amide | NC1CCC(CC1)NC(=O)N1C[C@@H](CC1)N | C11H22N4O
reactant | (R)-3-amino-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)N | C9H18N2O2
product | (R)-3-Amino-pyrrolidine-1-carboxylic acid (R)-pyrrolidin-3-ylamide | N1C[C@@H](CC1)NC(=O)N1C[C@@H](CC1)N | C9H18N4O
